US05344845
Using 4.8 g of 2-chloro-4-(2-tetrahydropyranyloxy)benzaldehyde derived from 2-chloro-4-hydroxybenzaldehyde by the introduction of tetrahydropyranyl group thereinto, 4.2 g of malonic acid, 80 ml of pyridine, and 0.5 ml of piperidine, a reaction similar to that performed in Example 99 was carried out. As a result, 3.1 g of 2-chloro-4-(2-tetrahydropyranyloxy)cinnamic acid was obtained as crystal, which had the following physiochemical properties:

reactant | 2-chloro-4-(2-tetrahydropyranyloxy)benzaldehyde | 4.8 g | ClC1=C(C=O)C=CC(=C1)OC1OCCCC1 | C12H13ClO3
reactant | 2-chloro-4-hydroxybenzaldehyde | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
reactant | malonic acid | 4.2 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-4-(2-tetrahydropyranyloxy)cinnamic acid | 3.1 g | ClC1=C(C=CC(=O)O)C=CC(=C1)OC1OCCCC1 | C14H15ClO4
